US09193719B2
A solution of N-(4-((4-methyl-6-nitropyridin-3-yl)oxy)pyridin-2-yl)acetamide (0.36 g, 1.249 mmol) in EtOAc (15 mL) was treated with 10% Pd/C (50% w/w water, 0.133 g, 0.125 mmol) and hydrogenated (1 atm) overnight. The solids were removed via filtration through diatomaceous earth, washed with EtOAc and the filtrate was concentrated to dryness to afford N-(4-((6-amino-4-methylpyridin-3-yl)oxy)pyridin-2-yl)acetamide (320 mg, 99%). 1H NMR (400 MHz, DMSO-d6): δ 10.47 (s, 1H), 8.11 (d, J=5.7 Hz, 1H), 7.66 (s, 1H), 7.55 (d, J=2.4 Hz, 1H), 6.55 (dd, J=5.7, 2.4 Hz, 1H), 6.37 (s, 1H), 5.88 (s, 2H), 2.02 (s, 3H), 1.93 (s, 3H); MS (ESI) m/z: 259.1 (M+H+).

reactant | N-(4-((4-methyl-6-nitropyridin-3-yl)oxy)pyridin-2-yl)acetamide | 1.249 mmol, 0.36 g | CC1=C(C=NC(=C1)[N+](=O)[O-])OC1=CC(=NC=C1)NC(C)=O | C13H12N4O4
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.125 mmol, 0.133 g | [Pd] | Pd
product | N-(4-((6-amino-4-methylpyridin-3-yl)oxy)pyridin-2-yl)acetamide | 320 mg, 99% | NC1=CC(=C(C=N1)OC1=CC(=NC=C1)NC(C)=O)C | C13H14N4O2
